US06323235B1
Methyl (3-(2-(2-phenylethylthio)ethyl)-2-methylbenzofuran-7-yloxy)acetate
2-phenylethanethiol (0.42 ml) was dissolved in DMF (5 ml) and sodium hydride (60%, 132 mg) was added to the obtained solution, followed by stirring the resulting mixture at room temperature for 40 minutes. To this reaction solution, a solution of methyl 3-(2-bromoethyl)-2-methyl-benzofuran-7-yloxyacetate (900 mg) in DMF (8 ml) was added dropwise and the resulting solution was stirred for 30 minutes. Acetic acid (0.5 ml) was added to the reaction solution and the solution was poured into water layer (100 ml), followed by extraction of the resultant twice with ethyl acetate (30 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: cyclohexane/ethyl acetate=3/1) using silica gel to obtain the desired compound (1.03 g, yield: 98%).

reactant | 2-phenylethanethiol | 0.42 ml | C1(=CC=CC=C1)CCS | C8H10S
reactant | sodium hydride | 132 mg | [H-].[Na+]
reactant | methyl 3-(2-bromoethyl)-2-methyl-benzofuran-7-yloxyacetate | 900 mg | BrCCC1=COC2=C1C=CC=C2OC(C(=O)OC)C | C14H15BrO4
reactant | Acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | Methyl (3-(2-(2-phenylethylthio)ethyl)-2-methylbenzofuran-7-yloxy)acetate | 1.03 g, yield: 98% | C1(=CC=CC=C1)CCSCCC1=C(OC2=C1C=CC=C2OCC(=O)OC)C | C22H24O4S
